US08357679B2
D: (4-Amino-3-chlorophenyl)(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)piperazin-1-yl)methanone
1,8-Diazabicyclo[5.4.0]undec-7-ene (4.22 mmol, 0.631 mL, 0.643 g) was added to a cooled (ice/slurry) solution of (4-amino-3-chlorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone (3.25 mmol, 1.61 g) and tert-butyldimethylchlorosilane (4.22 mmol, 0.636 g) in dichloromethane (20 mL) under nitrogen. The resulting solution was stirred for 15 minutes prior to the removal of the external cooling bath. The reaction was allowed to warm to room temperature and stirred for 16 hours. The reaction mixture was diluted with dichloromethane (100 ml) and washed with 0.5M hydrochloric acid (100 ml), 0.5M sodium hydroxide (100 ml) and brine (100 ml). The organic phase was dried on magnesium sulfate, filtered and concentrated under vacuum to give a crude oil. This oil was purified by SCX chromatography to afford the title compound (1.616 g).

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 4.22 mmol, 0.631 mL, 0.643 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (4-amino-3-chlorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 3.25 mmol, 1.61 g | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)Cl | C21H20ClF6N3O2
reactant | tert-butyldimethylchlorosilane | 4.22 mmol, 0.636 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (4-Amino-3-chlorophenyl)(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)piperazin-1-yl)methanone | 1.616 g | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O[Si](C)(C)C(C)(C)C)Cl | C27H34ClF6N3O2Si
